US07230023B2
(2) 5-(Hydroxymethyl)-1 (3H)-isobenzofuranone
According to a similar procedure to that described in Example 1-(6), methyl 2,4-bis(acetoxymethyl)benzoate (6.35 g, 22.7 mmol) obtained from Example 4-(1) and potassium carbonate (373.2 mg, 2.7 mmol) were reacted, and the reaction mixture was worked up to afford, after extraction, the title compound as a crude product. The crude product was subjected to chromatography on a silica gel (200 g) column (eluent; ethyl acetate:dichloromethane=0:1˜1:10) to afford the title compound (2.94 g, 79% yield) as a colorless solid (mp. 126° C.).

reactant | methyl 2,4-bis(acetoxymethyl)benzoate | 22.7 mmol, 6.35 g | C(C)(=O)OCC1=C(C(=O)OC)C=CC(=C1)COC(C)=O | C14H16O6
reactant | potassium carbonate | 2.7 mmol, 373.2 mg | C([O-])([O-])=O.[K+].[K+]
product | 5-(Hydroxymethyl)-1 (3H)-isobenzofuranone | 2.94 g, 79% yield | OCC=1C=C2COC(C2=CC1)=O | C9H8O3
